US04666453
Preparation of 2-chloro-5-β-methoxyethylamino-4-nitro-N-β-methoxyethylaniline
0.9 mole (67.6 g) of 2-methoxyethylamine is heated to reflux in 30 ml of dioxane. 0.15 mole (34 g) of 1,2,4-trichloro-5-nitrobenzene is added portionwise. Heating under reflux is carried out for 4 hours. After cooling, dilution with iced water and neutralization with concentrated hydrochloric acid, the expected product is filtered off. Recrystallized from 96° ethanol, it melts at 106° C.

reactant | 2-methoxyethylamine | 0.9 mole, 67.6 g | COCCN | C3H9NO
reactant | 1,2,4-trichloro-5-nitrobenzene | 0.15 mole, 34 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)Cl | C6H2Cl3NO2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-chloro-5-β-methoxyethylamino-4-nitro-N-β-methoxyethylaniline | ClC1=C(NCCOC)C=C(C(=C1)[N+](=O)[O-])NCCOC | C12H18ClN3O4
